US04021221
Preparation of 1-methyl-1-(2-hydroxyethyl)-phospholanium chloride
16.1 g (0.2 mole) of 2-chloroethanol were added to a solution of 20.4 g (0.2 mole) of 1-methyl-phospholane in 200 ml of toluene at room temperature, whilst stirring. The reaction mixture was then left to stand for some hours at room temperature and the precipitate which had separated out was then filtered off. This gave 1-methyl-1-(2-hydroxyethyl)-phospholanium chloride in the form of hygroscopic crystals of melting point 78°-80° C.

reactant | 2-chloroethanol | 0.2 mole, 16.1 g | ClCCO | C2H5ClO
reactant | 1-methyl-phospholane | 0.2 mole, 20.4 g | CP1CCCC1 | C5H11P
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-1-(2-hydroxyethyl)-phospholanium chloride | [Cl-].C[P+]1(CCCC1)CCO | InChI=1S/C7H16OP.ClH/c1-9(7-4-8)5-2-3-6-9;/h8H,2-7H2,1H3;1H/q+1;/p-1
